US04713387
In 5 ml of methylene chloride was suspended 350 mg of (E)-3-[4-(pyridin-3-yloxy)phenyl]-2-methylallyl alcohol hydrochloride and to the suspension was added 0.18 ml of thionyl chloride with ice-cooling, after which the resulting mixture was subjected to reaction under reflux for 30 minutes. The solvent and the excessive thionyl chloride were removed by distillation under reduced pressure to obtain oily (E)-3-[4-(pyridin-3-yloxy)phenyl]-2-methylallyl chloride hydrochloride. This was dissolved in 2 ml of methylene chloride.

reactant | (E)-3-[4-(pyridin-3-yloxy)phenyl]-2-methylallyl alcohol hydrochloride | 350 mg | Cl.N1=CC(=CC=C1)OC1=CC=C(C=C1)/C=C(/CO)\C
reactant | thionyl chloride | 0.18 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | (E)-3-[4-(pyridin-3-yloxy)phenyl]-2-methylallyl chloride hydrochloride | Cl.N1=CC(=CC=C1)OC1=CC=C(C=C1)/C=C(/CCl)\C | InChI=1S/C15H14ClNO.ClH/c1-12(10-16)9-13-4-6-14(7-5-13)18-15-3-2-8-17-11-15;/h2-9,11H,10H2,1H3;1H/b12-9+;
